US04352811
3-{3-[4-(6-Chloro-1,2-benzisoxazol-3-yl)piperidyl]propyl}2-methylindole
A stirred mixture, under nitrogen, of 27.0 g of 3-(4-piperidyl-6-chloro-1,2-benzisoxazole, 31.3 g of 2-methyl-3-(3-phenylsulfonylpropyl)indole and 27.6 g of anhydrous potassium carbonate in 500 ml of methyl ethyl ketone was heated under reflux for 6 hrs. The mixture was cooled and treated with 150 ml of water. The organic phase was separated, extracted with water and concentrated to an oily residue. The residue was dissolved in 50 ml of ethyl acetate and absorbed on a chromatography column containing 300 g of silica gel packed in ethyl acetate. Elution with ethyl acetate, followed by concentration of the eluent and trituration with ether, provided 12.1 g (31% yield) of product. Recrystallization from a small volume of toluene afforded the anlytical sample, mp 108°-110°.

reactant | 4-piperidyl-6-chloro-1,2-benzisoxazole | N1CCC(CC1)C1=NOC2=C1C=CC(=C2)Cl | C12H13ClN2O
reactant | 2-methyl-3-(3-phenylsulfonylpropyl)indole | 31.3 g | CC=1NC2=CC=CC=C2C1CCCS(=O)(=O)C1=CC=CC=C1 | C18H19NO2S
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | methyl ethyl ketone | 500 ml | C(C)C(=O)C | C4H8O
product | 3-{3-[4-(6-Chloro-1,2-benzisoxazol-3-yl)piperidyl]propyl}2-methylindole | 12.1 g, 31% yield | ClC1=CC2=C(C(=NO2)C2CCN(CC2)CCCC2=C(NC3=CC=CC=C23)C)C=C1 | C24H26ClN3O
